* 12AU7 / ECC82 — medium-mu dual triode (driver / cathode follower).
*
* Norman Koren triode model. Typical-sample parameters fitted from
* published RCA / Philips curves.
*
* tube_type: triode
* Pins: P (plate), G (grid), K (cathode) — single section.
*
* Approximate; see T031 (Tube-curve-fitting) for precise per-sample fit.
.SUBCKT 12AU7 P G K
* Koren parameters: MU=21.5 EX=1.3 KG1=1180 KP=84 KVB=300
E1 7 0 VALUE={V(P,K)/84*LN(1+EXP(84*(1/21.5+V(G,K)/SQRT(300+V(P,K)*V(P,K)))))}
G1 P K VALUE={(PWRS(V(7),1.3)+PWRS(V(7),1.3))/1180}
C1 G K 1.6p
C2 G P 1.5p
C3 P K 0.5p
RGI G K 1MEG
.ENDS 12AU7
